US06514977B1
To a solution of 4-[3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]pyridine (2.7 g, 10.67 mmol) (prepared in accordance with Example A-212) in acetic acid (30 mL) and DMF (13 mL) was added bromine (19.5 g, 122.0 mmol). The solution was heated at 80° C. overnight. TLC indicated that the reaction was complete. The mixture was quenched slowly with K2CO3 (25 g). When pH was about 5, a precipitate was formed. The precipitate was washed with water (50 mL×5) to give 4-[5-bromo-3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]pyridine (1.24 g, 35%): mp 174.38° C.; Mass spectrum m/z=332, 334; 1H NMR was consistent with the proposed structure. Anal. Calc'd for C15H11N3FBr.0.2 H2O: C, 53.66; H, 3.42; N, 12.51. Found: C, 53.58; H, 3.12; N, 12.43.

reactant | 4-[3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]pyridine | 10.67 mmol, 2.7 g | FC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | C15H12FN3
reactant | bromine | 122.0 mmol, 19.5 g | BrBr | Br2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 4-[5-bromo-3-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]pyridine | 1.24 g, 35% | BrC1=C(C(=NN1C)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C15H11BrFN3
